US06329382B1
Preparation of ethyl 8-sec-butyl-3-cyano-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylate (Compound 13):
The intended compound was obtained in 95.6% yield in the same manner as in Synthesis Example (5) using ethyl 7-chloro-6-(2-chloroethyl)-3-cyanopyrazolo[1,5-a]pyrimidine-5-carboxylate and sec-butylamine.

reactant | ethyl 7-chloro-6-(2-chloroethyl)-3-cyanopyrazolo[1,5-a]pyrimidine-5-carboxylate | ClC1=C(C(=NC=2N1N=CC2C#N)C(=O)OCC)CCCl | C12H10Cl2N4O2
reactant | sec-butylamine | C(C)(CC)N | C4H11N
product | ethyl 8-sec-butyl-3-cyano-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylate | 95.6% yield | C(C)(CC)N1CCC=2C(=NC=3N(C21)N=CC3C#N)C(=O)OCC | C16H19N5O2
